US05663164
5.55 g of tert.-butyl dichloroacetate in 30 ml of tetrahydrofuran and 4.99 g of 4-nitrobenzaldehyde in 30 ml of tetrahydrofuran were cooled to -20° C. and, over 20 minutes, 30 ml of a molar solution of potassium tert.-butylate in tetrahydrofuran were added dropwise at -20° C. The reaction mixture was stirred while the temperature was allowed to rise to 20° C., and it was then poured into 100 ml of water and ice, and was extracted with ether. The organic phase was washed with water saturated with sodium chloride, then with water, dried, and concentrated to dryness under reduced pressure. The residue was chromatographed on silica and eluted with methylene chloride to obtain 6.44 g of 1,1-dimethylethyl 2-chloro-3-(4-nitrophenyl)oxirane carboxylate melting at 60° C.

reactant | tert.-butyl dichloroacetate | 5.55 g | ClC(C(=O)OC(C)(C)C)Cl | C6H10Cl2O2
reactant | 4-nitrobenzaldehyde | 4.99 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1,1-dimethylethyl 2-chloro-3-(4-nitrophenyl)oxirane carboxylate | 6.44 g | ClC1(OC1C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C13H14ClNO5
